US06803457B1
2-Benzyloxy-5-trifluoromethyl-benzylalcohol
Cesium carbonate (2.24 g, 6.9 mmol) was added to a solution of 2-hydroxy-5-trifluoromethyl-benzyl alcohol (885 mg, 4.6 mmol) and benzyl bromide (547 μL, 4.6 mmol) in anhydrous DMF (8 mL) at room temperature. The reaction was heated to 50° C. for 2 hours, cooled, diluted with ethyl acetate (25 mL) and washed with water (3×25 mL), brine (1×25 mL), and dried (Na2SO4), filtered and concentrated to afford 1.3 g of the title compound as a colorless solid. 1H NMR (400 MHz. CDCl3) δ 7.6-7.3 (m, 7H); 7.01 (d, 1H, J=9.1 Hz); 5.18 (s, 2H); 4.79 (s, 2H); 2.8 (bs, 1H).

reactant | Cesium carbonate | 6.9 mmol, 2.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-hydroxy-5-trifluoromethyl-benzyl alcohol | 4.6 mmol, 885 mg | OC1=C(CO)C=C(C=C1)C(F)(F)F | C8H7F3O2
reactant | benzyl bromide | 4.6 mmol, 547 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-Benzyloxy-5-trifluoromethyl-benzylalcohol | 1.3 g | C(C1=CC=CC=C1)OC1=C(CO)C=C(C=C1)C(F)(F)F | C15H13F3O2
